US05438055
Step D: 3-Amino-1,2-dihydro-1-methyl-5-(4-methylpiperidin-1-yl )-3H-1,4-benzodiazepin-2-one
A suspension of 1,2-dihydro-1-methyl-3-oximino-5-(4-methylpiperidin-1-yl)-3H-1,4-benzodiazepin-2-one (0.27 g) and 5% ruthenium on carbon (0.16 g) in methanol (50 ml) was hydrogenated at 55 psi H2 at 70° for 24 h. The catalyst was then removed by filtration and the solvent evaporated. The residue was purified by filtration and the solvent evaporated. The residue was purified by column chromatography on silica with CH2Cl2:MeOH 98:2∆9:1 as eluant to afford product.

reactant | 1,2-dihydro-1-methyl-3-oximino-5-(4-methylpiperidin-1-yl)-3H-1,4-benzodiazepin-2-one | 0.27 g | CN1C(C(N=C(C2=C1C=CC=C2)N2CCC(CC2)C)=NO)=O | C16H20N4O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | ruthenium on carbon | 0.16 g | [Ru] | Ru
product | 3-Amino-1,2-dihydro-1-methyl-5-(4-methylpiperidin-1-yl )-3H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)N1CCC(CC1)C)C=CC=C2)C)=O | C16H22N4O
